US06930185B2
N-[2-(Chloromethyl)-6-quinolinyl]acetamide Hydrochloride
To the N-[2-(hydroxymethyl)-6-quinolinyl]acetamide (1.00 g, 4.62 mmol) obtained in Reference Example 5 was added thionyl chloride (23 ml) under ice-cooling, and the mixture was stirred for 2 hours. The reaction solution was concentrated under reduced pressure, and the resulting residue was washed with ethyl acetate to obtain the titled compound (900 mg) as a powder.

reactant | N-[2-(hydroxymethyl)-6-quinolinyl]acetamide | 4.62 mmol, 1.00 g | OCC1=NC2=CC=C(C=C2C=C1)NC(C)=O | C12H12N2O2
reactant | thionyl chloride | 23 ml | S(=O)(Cl)Cl | Cl2OS
product | N-[2-(Chloromethyl)-6-quinolinyl]acetamide Hydrochloride | 900 mg | Cl.ClCC1=NC2=CC=C(C=C2C=C1)NC(C)=O | InChI=1S/C12H11ClN2O.ClH/c1-8(16)14-10-4-5-12-9(6-10)2-3-11(7-13)15-12;/h2-6H,7H2,1H3,(H,14,16);1H
